US09315521B2
6-methyl-2-({[1-(propane-2-yl)-1H-benzimidazol-2-yl]methyl}sulfanyl)pyrimidin-4-ol (500 mg, 1.6 mmol) was stirred in methanol (50 mL) and a solution of 4 N HCl in dioxane (600 μL, 2.4 mmol) was added dropwise at 0° C. The mixture was stirred for 1 hour at room temperature. The solvent was removed by evaporation, and the residue was triturated with diethyl ether and dried in vacuo to afford 6-methyl-2-({[1-(propane-2-yl)-1H-benzimidazol-2-yl]methyl}sulfanyl)pyrimidin-4-ol hydrochloride (560 mg, 100% yield); 1H NMR (400 MHz, DMSO-d6): δ 1.68 (s, 3H), 1.70 (s, 3H), 2.14 (s, 3H), 5.01 (s, 2H), 5.21-5.28 (m, 1H), 6.20 (s, 1H), 7.54-7.61 (m, 2H), 7.84-7.87 (m, 1H), 8.16-8.19 (m, 1H); LRMS (ES) m/z 315 (100%, M+1).

reactant | 6-methyl-2-({[1-(propane-2-yl)-1H-benzimidazol-2-yl]methyl}sulfanyl)pyrimidin-4-ol | 1.6 mmol, 500 mg | CC1=CC(=NC(=N1)SCC1=NC2=C(N1C(C)C)C=CC=C2)O | C16H18N4OS
reactant | HCl | 4 N | Cl | ClH
reactant | dioxane | 2.4 mmol, 600 μL | O1CCOCC1 | C4H8O2
solvent | methanol | 50 mL | CO | CH4O
product | 6-methyl-2-({[1-(propane-2-yl)-1H-benzimidazol-2-yl]methyl}sulfanyl)pyrimidin-4-ol hydrochloride | 560 mg, 100% yield | Cl.CC1=CC(=NC(=N1)SCC1=NC2=C(N1C(C)C)C=CC=C2)O | InChI=1S/C16H18N4OS.ClH/c1-10(2)20-13-7-5-4-6-12(13)18-14(20)9-22-16-17-11(3)8-15(21)19-16;/h4-8,10H,9H2,1-3H3,(H,17,19,21);1H
